US05948786
Synthesis of 2-amino-4-[1-(3,4-methylenedioxyphenylacetyl)-4-piperidinyl]quinazoline
To a suspension of 3,4-methylenedioxyphenylacetic acid (569 mg, 3.16 mmol) in chloroform (6 ml) was added thionyl chloride (1.2 ml). The mixture was refluxed for about 3 hours, and was evaporated. Toluene was added to the residue and the mixture was evaporated to remove the excess of thionyl chloride. To the residue was added dichloromethane (3 ml) to give a dichloromethane solution of 3,4-methylenedioxyphenylacetyl chloride. To an ice-cold mixture of 2-amino-4-(4-piperidinyl)quinazoline (600 mg, 2.63 mmol) and triethylamine (319 mg, 3.16 mmol) in dichloromethane (16 ml) was added dropwise the solution of 3,4-methylenedioxyphenylacetyl chloride prepared above under a nitrogen atmosphere. The mixture was stirred for about two hours and to the reaction mixture was added dichloromethane and saturated sodium hydrogencarbonate aqueous solution followed by extraction. The organic layer was washed with water, and then dried over sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (dichloromethane:methanol=30:1). Crystallization from methanol gave the titled compound (617 mg).

reactant | 2-amino-4-(4-piperidinyl)quinazoline | 2.63 mmol, 600 mg | NC1=NC2=CC=CC=C2C(=N1)C1CCNCC1 | C13H16N4
reactant | triethylamine | 3.16 mmol, 319 mg | C(C)N(CC)CC | C6H15N
reactant | 3,4-methylenedioxyphenylacetyl chloride | C1OC=2C=C(C=CC2O1)CC(=O)Cl | C9H7ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 2-amino-4-[1-(3,4-methylenedioxyphenylacetyl)-4-piperidinyl]quinazoline | 617 mg | NC1=NC2=CC=CC=C2C(=N1)C1CCN(CC1)C(CC1=CC2=C(C=C1)OCO2)=O | C22H22N4O3
